US07435746B2
A mixture of cesium carbonate (2.71 g, 8.32 mmol) and DMF and water (10:1, 20 mL) was stirred at room temperature for 30 min before a solution of (R)-2-aminohexanedioic acid diethyl ester (prepared from D-α-aminoadipic acid according to Huang, et al., Synth. Commun. 1989, 19, 3485-3496, 1.80 g, 8.28 mmol) in DMF and water (10:1, 2 mL) was added via cannula. After 30 min at room temperature, potassium iodide (276 mg, 1.66 mmol) followed by 4-(2-chloroethylsulfanyl)-butyric acid methyl ester (prepared according to PCT 03/007941, 1.63 g, 8.29 mmol) in DMF and water (10:1, 5 mL) were added. After 23 h at room temperature, the reaction mixture was heated at 90° C. After 2.5 h at 90 ° C, the reaction was cooled to room temperature and saturated aqueous NaHCO3 (100 mL) was added. The mixture was extracted with EtOAc (3×75 mL) and the combined extracts were washed with water (2×100 mL) and brine (2×100 mL) then dried (Na2SO4) filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (10%→40% EtOAc/hexane, gradient) two times afforded 893 mg (29%) of (R)-2-[2-(3-methoxycarbonyl-propylsulfanyl)-ethylamino]-hexanedioic acid diethyl ester.

reactant | cesium carbonate | 8.32 mmol, 2.71 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-2-aminohexanedioic acid diethyl ester | 8.28 mmol, 1.80 g | C(C)OC([C@@H](CCCC(=O)OCC)N)=O | C10H19NO4
reactant | potassium iodide | 1.66 mmol, 276 mg | [I-].[K+]
reactant | 4-(2-chloroethylsulfanyl)-butyric acid methyl ester | 8.29 mmol, 1.63 g | COC(CCCSCCCl)=O | C7H13ClO2S
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | (R)-2-[2-(3-methoxycarbonyl-propylsulfanyl)-ethylamino]-hexanedioic acid diethyl ester | 893 mg, 29% | C(C)OC([C@@H](CCCC(=O)OCC)NCCSCCCC(=O)OC)=O | C17H31NO6S
